US06017875
A reaction vessel of glass, 3000 ml in inner volume, provided with stirring vanes and a reflux condenser was charged with 810 g (4.82 mols) of a dodecene-isomer mixture (composed of 25 mol % of 1-dodecene and 75 mol % of inner dodecene) obtained by causing 1-dodecene to react in the liquid phase with 5% by weight of a BEA type zeolite (produced by PQ Corp. and marketed under trademark designation of "VALFOR CP 811 BL-25") at 150° C. for 10 hours, 900 g (14.52 mols) of monoethylene glycol, and 100 g of the BEA type zeolite (produced by PQ Corp. and marketed under trademark designation of "VALFOR CP 811 BL-25"). The vapor-phase part of the reaction vessel was displaced with nitrogen and then retained in the atmosphere of nitrogen at normal pressure. The reaction mixture was heated to and kept at 150° C. for three hours and meanwhile kept stirred at 600 rpm to induce reaction. The reaction solution was cooled to room temperature. The dodecene phase in the upper layer was separated and distilled to expel the unaltered dodecene. The residue of the distillation was treated under a reduced pressure of 2 mmHg in a boiling point range of 129° to 131° C., to obtain 155 g of a secondary dodecanol ethoxylate composition.

reactant | dodecene | 4.82 mols, 810 g | C=CCCCCCCCCCC | C12H24
reactant | monoethylene glycol | 14.52 mols, 900 g | C(CO)O | C2H6O2
product | secondary dodecanol | 155 g | C(C)(CCCCCCCCCC)O | C12H26O
